US04282242
2-(2,4-Dichlorophenylthio)pyrrole-3-carboxylic Acid
Methyl 5-(2,4-dichlorophenylthio)pyrrole-3-carboxylate (3.6 g.) was combined with 40 ml. of methanol and 40 ml. of 1 N sodium hydroxide and refluxed for 2.5 hours. The methanol was allowed to evaporate, the aqueous residue diluted with approximately one volume of water and extracted with ether. The aqueous phase was acidified with conc. hydrochloric acid and the heavy oil which precipitated extracted into ethyl acetate. The ethyl acetate extracts were combined, washed with saturated brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to crude product (3.4 g., m.p. 160°-164° C.). Recrystallization from methanol/water gave purified 5-(2,4-dichlorophenylthio)-pyrrole-3-carboxylic acid (2.3 g., m.p. 166°-168° C.).

reactant | Methyl 5-(2,4-dichlorophenylthio)pyrrole-3-carboxylate | 3.6 g | ClC1=C(C=CC(=C1)Cl)SC1=CC(=CN1)C(=O)OC | C12H9Cl2NO2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methanol | CO | CH4O
product | 2-(2,4-Dichlorophenylthio)pyrrole-3-carboxylic Acid | ClC1=C(C=CC(=C1)Cl)SC=1NC=CC1C(=O)O | C11H7Cl2NO2S
